US06825191B2
Step 1: Synthesis of 4-(4-chlorobenzoyl)-1-(4-cyanobenzyl)-1,3,4,5-tetrahydrobenzo[e][1,4]diazepin-2-on
230 mg (0.77 mmol) of 4-(4-chlorobenzoyl)-1,3,4,5-tetrahydrobenzo[e][1,4]diazepin-2-on was dissolved in 5 ml of DMF. 37 mg (0.92 mmol) of sodium hydride was added to the obtained solution, and they were stirred at room temperature for 30 minutes. 196 mg (1.00 mmol) of 4-cyanobenzyl bromide was added to the obtained mixture, and they were stirred at room temperature for 4 hours. After the treatment with ethyl acetate as the extracting solvent by an ordinary method, the obtained crude product was purified by the silica gel column chromatography to obtain the title compound.

reactant | 4-(4-chlorobenzoyl)-1,3,4,5-tetrahydrobenzo[e][1,4]diazepin-2-on | 0.77 mmol, 230 mg | ClC1=CC=C(C(=O)N2CC(NC3=C(C2)C=CC=C3)=O)C=C1 | C16H13ClN2O2
reactant | sodium hydride | 0.92 mmol, 37 mg | [H-].[Na+]
reactant | 4-cyanobenzyl bromide | 1.00 mmol, 196 mg | C(#N)C1=CC=C(CBr)C=C1 | C8H6BrN
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 4-(4-chlorobenzoyl)-1-(4-cyanobenzyl)-1,3,4,5-tetrahydrobenzo[e][1,4]diazepin-2-on | ClC1=CC=C(C(=O)N2CC(N(C3=C(C2)C=CC=C3)CC3=CC=C(C=C3)C#N)=O)C=C1 | C24H18ClN3O2
